US08242139B2
N-(4-bromo-3-chlorophenyl)-7-chlorobenzo[d]oxazol-2-amine
An ambient solution of 2-amino-6-chlorophenol (0.86 g, 6.0 mmol) and 3-chloro-4-bromophenyl isothiocyanate (1.49 g, 6.0 mmol) in tetrahydrofuran (20 mL) was stirred for 16 h. The reaction was cooled (0° C.), and LiOH.H2O (0.521 g, 12.41 mmol) was added, followed by the drop wise addition of 30% H2O2 (3.41 mL, 31.0 mmol) over 15 minutes. The reaction was warmed to room temperature and stirred for 16 h. The reaction was then quenched by the addition of 20% aqueous sodium sulfite solution (50 mL) and ethyl acetate (75 mL). The layers were separated, and the aqueous was extracted with additional ethyl acetate (2×75 mL). The combined organics were dried with anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by chromatography on SiO2 gel, eluting with 25% ethyl acetate in hexane, to give the title compound. MS (ESI) m/z 359[M+H]+.

reactant | 2-amino-6-chlorophenol | 6.0 mmol, 0.86 g | NC1=C(C(=CC=C1)Cl)O | C6H6ClNO
reactant | 3-chloro-4-bromophenyl isothiocyanate | 6.0 mmol, 1.49 g | ClC=1C=C(C=CC1Br)N=C=S | C7H3BrClNS
reactant | LiOH.H2O | 12.41 mmol, 0.521 g | O[Li].O
reactant | H2O2 | 31.0 mmol, 3.41 mL | OO | H2O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(4-bromo-3-chlorophenyl)-7-chlorobenzo[d]oxazol-2-amine | BrC1=C(C=C(C=C1)NC=1OC2=C(N1)C=CC=C2Cl)Cl | C13H7BrCl2N2O
